US04363925
1.05 parts of triphenylphosphine are added to a mixture of 9.84 parts of 2-chloronitrobenzene in 35 parts of xylene and 1.15 parts of dibenzalacetone-palladium. After stirring at 22° C. for 30 minutes, 11 parts of hexamethyldisilane are added and the mixture is heated in a stirred autoclave to 150° C. for 30 hours. After the mixture has cooled, petroleum ether is added and the solution is filtered off from undissolved substances and concentrated under reduced pressure. A conversion of 92% of theory is found by gas-chromatographic analysis of the residue. Subsequent distillation gives 9.9 parts of 2-nitrophenyltrimethylsilane of boiling point 116°-118° C./10 mm, corresponding to a yield of 82% of theory.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloronitrobenzene | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | hexamethyldisilane | C[Si]([Si](C)(C)C)(C)C | C6H18Si2
catalyst | dibenzalacetone palladium | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-nitrophenyltrimethylsilane | yield of 82% | [N+](=O)([O-])C1=C(C=CC=C1)[Si](C)(C)C | C9H13NO2Si
